US07217723B2
To a solution of (5-[1-(t-butyldimethylsiloxy)vinyl]-3-{[2-(4-fluorophenyl)ethyl]methyl-sulfamoyl}-thiophene-2-yl)carbamic acid t-butyl ester (the compound of Preparation Example 113) (235 mg) and acrylonitrile (4 lpL) in xylene (1 mL) was irradiated with a 200 W microwave. After reacting at 100° C. to 150° C. for 30 minutes, the reaction solution was purified by silica gel column chromatography (hexane/ethyl acetate) and (4-cyano-3-{[2-(4-fluorophenyl)ethyl]methylsulfamoyl}-7-t-butyl-dimethylsiloxy-4,5,6,7-tetrahydrobenzo[b]thiophene-2-yl)carbamic acid t-butyl ester (54 mg) was obtained as a mixture. In addition, the same reaction was carried out from the starting materials (293 mg), and the mixture (45 mg) was obtained.

reactant | (5-[1-(t-butyldimethylsiloxy)vinyl]-3-{[2-(4-fluorophenyl)ethyl]methyl-sulfamoyl}-thiophene-2-yl)carbamic acid t-butyl ester | C(C)(C)(C)OC(NC=1SC(=CC1S(N(C)CCC1=CC=C(C=C1)F)(=O)=O)C(=C)O[Si](C)(C)C(C)(C)C)=O | C26H39FN2O5S2Si
reactant | acrylonitrile | C(C=C)#N | C3H3N
solvent | xylene | 1 mL | C=1(C(=CC=CC1)C)C | C8H10
product | (4-cyano-3-{[2-(4-fluorophenyl)ethyl]methylsulfamoyl}-7-t-butyl-dimethylsiloxy-4,5,6,7-tetrahydrobenzo[b]thiophene-2-yl)carbamic acid t-butyl ester | 54 mg | C(C)(C)(C)OC(NC1=C(C2=C(S1)C(CCC2C#N)O[Si](C)(C)C(C)(C)C)S(N(C)CCC2=CC=C(C=C2)F)(=O)=O)=O | C29H42FN3O5S2Si
